US04146646
Chloroacetonitrile (4.1g) was added dropwise to a solution of 1,1,1-trichloro-2-hydroxy-2-benzamidoethane (13.4g) in concentrated sulphuric acid (50 ml). The temperature was kept at 0° during the addition. The mixture was stirred at room temperature for 4 hours, then left overnight. The reaction mixture was poured on to ice. The precipitated solid was collected, washed with water and dried (14.65g). Recrystallisation from nitromethane gave pure 1,1,1-trichloro-2-benzamido-2-(chloroacetamido)ethane (12.7g, m.p. 210°-12°) whose infra red spectrum was identical to that of the product of the preceding Example.

reactant | Chloroacetonitrile | 4.1g | ClCC#N | C2H2ClN
reactant | 1,1,1-trichloro-2-hydroxy-2-benzamidoethane | 13.4g | ClC(C(NC(C1=CC=CC=C1)=O)O)(Cl)Cl | C9H8Cl3NO2
reactant | sulphuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 1,1,1-trichloro-2-benzamido-2-(chloroacetamido)ethane | 12.7g | ClC(C(NC(CCl)=O)NC(C1=CC=CC=C1)=O)(Cl)Cl | C11H10Cl4N2O2
